Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PCOMM brain aneurysm. 
 
Major Surgical or Invasive Procedure:
___ - Right craniotomy for PCOMM clipping.

 
History of Present Illness:
Mrs. ___ is a ___ y/o female who presented electively on ___ 
for a right craniotomy for clipping of the right PCOMM. The 
risks and benefits of surgical intervention were discussed and 
the patient consented to the procedure. 
 
Past Medical History:
Depression
Anxiety
Hyperlipidemia 
 
Social History:
___
Family History:
NC.
 
Physical Exam:
PHYSICAL EXAMINATION ON DISCHARGE: 
TM 98.6, TC 98.4m BP 111/62, HR 75, RR 18, O2 93% RA

Fluid Balance: Not accurately documented in OMR. 

Bowel Regimen: [x]Yes [ ]No   

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right  4-3mm      Left  4-3mm

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right 5         5      5       5       5
Left 5         5      5       5       5

IPQuadHamATEHLGast
Right   5         5      5      5        5        5
Left5         5      5      5        5        5

[x]Sensation intact to light touch.

Wound: 
          [x]Clean, dry, intact 
          [ ]Abnormal
[ ]Steris [x]Suture [ ]Staples [ ]None

 
Pertinent Results:
Please see OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
Mrs. ___ is a ___ y/o female who presents electively on 
___ for a right craniotomy for clipping of her right pcomm. 
Her intraoperative course was uneventful, please refer to the 
operative note for further details. Post operatively she 
developed severe nausea requiring multiple anti-nausea 
medication with poor effect, she was given a scopolamine patch 
with good effect. She recovered in the PACU and then transferred 
to the ___. 

On POD #1, ___, the patient remained neurologically intact 
on examination. Her foley and arterial line were removed, and 
was transferred to the floor. She was ambulating and voiding 
without any difficulties.  

On POD #2, ___, the patient remained neurologically intact on 
examination. Her phosphorus level was low and was repleted. Her 
H/H were slightly lower which was likely dilutional. Her WBC was 
14.6 from 8.5 the day prior likely a stress response. She was 
tolerating a diet, voiding without difficulty and ambulating 
independently. It was determined she would be discharged to 
home. 
 
Medications on Admission:
Citalopram, Lorazepam, Crestor, Vitamin B12, and folic acid. 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
Do not exceed greater than 4g Acetaminophen in a 24-hour period. 

2.  Docusate Sodium 100 mg PO BID 
This medication can be purchased over-the-counter at your local 
pharmacy.   
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
Hold for sedation or drowsiness. Do not operate 
machinery/vehicle while taking. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*20 
Tablet Refills:*0 
4.  Scopolamine Patch 1 PTCH TD ONCE Duration: 72 Hours  
5.  Citalopram 10 mg PO DAILY  
6.  LORazepam 0.5 mg PO QHS:PRN Antianxiety  
7.  Rosuvastatin Calcium 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PCOMM Brain Aneurysm.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___ 

___ Aneurysm Clipping:

Call your neurosurgeon’s office and speak to the Nurse 
Practitioner if you experience:
-Any neurological issues, such as change in vision, speech or 
movement.
-Swelling, drainage, or redness of your incision.
-Any problems with medications, such as nausea, vomiting or 
lethargy.
-Fever greater than 101.5 degrees Fahrenheit.
-Headaches not relieved with prescribed medications.

Activity:
-Start to resume all activities as you tolerate – but start 
slowly and increase at your own pace.
-Do not operate any motorized vehicle for at least 10 days 
after your surgery – your Nurse Practitioner can give you more 
detail at the time of your suture removal. Do not operate a 
motorized vehicle or heavy machinery while taking sedating 
medications such as Lorazepam and/or Oxycodone. 

Incision Care:
-Keep your wound clean and dry.
-Do not use shampoo until your sutures are removed. 
-When you are allowed to shampoo your hair, let the shampoo run 
off the incision line.  Gently pad the incision with a towel to 
dry.
-Do not rub, scrub, scratch, or pick at any scabs on the 
incision line.
-You need your sutures removed 7 to 10 days after surgery.

Post-Operative Experiences: Physical
-Jaw pain on the same side as your surgery; this goes away 
after about a month.
-You may experience constipation.  Constipation can be 
prevented by:
oDrinking plenty of fluids.
oIncreasing fiber in your diet by eating vegetables, prunes, 
fiber rich breads and cereals, or fiber supplements.
oExercising.
oUsing over-the-counter bowel stimulants or laxatives as 
needed, stopping usage if you experience loose bowel movements 
or diarrhea.
-Fatigue which will slowly resolve over time.
-Numbness or tingling in the area of the incision; this can 
take weeks or months to fully resolve.
-Muffled hearing in the ear near the incision area.
-Low back pain or shooting pain down the leg which can resolve 
with increased activity.

Post-Operative Experiences: Emotional
-You may experience depression.  Symptoms of depression can 
include:
oFeeling “down” or sad.
oIrritability, frustration, and confusion.
oDistractibility.
oLower Self-Esteem/Relationship Challenges.
oInsomnia.
oLoneliness.

-If you experience these symptoms, you can contact your Primary 
Care Provider who can make a referral to a Psychologist or 
Psychiatrist.
-You can also seek out a local Brain Aneurysm Support Group in 
your area through the Brain Aneurysm Foundation. More 
information can be found at ___

 
Followup Instructions:
___